2119-08-23 07:48:00 Physician Resident Progress Note
Chief Complaint: 54F with DM, known CAD admitted with VT arrest,
   hospital course complicated by difficult ventilation initially now with
   persistent ventilator dependence, hypertension and now evidence of
   embolic CVA on CT scan new from admission.
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2119-8-22**] 12:00 PM
   Continued high UOP yesterday, slowed down now.
   Tolerated weaning down pressure support, currently at...
   Neuro suggests TEE to r/o LV thrombus.
   TEE done, no evidence thrombus, large amounts atherosclerotic disease
   in aorta.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2119-8-23**] 12:00 AM
   Infusions:
   Nicardipine - 2 mcg/Kg/min
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-8-22**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2119-8-23**] 12:00 AM
   Lorazepam (Ativan) - [**2119-8-23**] 02:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-23**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.6
   HR: 98 (73 - 107) bpm
   BP: 153/64(90) {119/47(67) - 178/78(108)} mmHg
   RR: 19 (14 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 5 (-1 - 10)mmHg
   Total In:
                                                                  2,142 mL
                                                                    555 mL
   PO:
   TF:
                                                                     98 mL
                                                                     39 mL
   IVF:
                                                                  1,555 mL
                                                                    416 mL
   Blood products:
   Total out:
                                                                  5,595 mL
                                                                    830 mL
   Urine:
                                                                  5,595 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,453 mL
                                                                   -275 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 483 (300 - 483) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 83
   SpO2: 93%
   ABG: 7.47/47/96.[**Numeric Identifier 244**]/32/8
   Ve: 9.3 L/min
   PaO2 / FiO2: 194
   Physical Examination
   General: Intubated, sedated
   HEENT: NCAT, flushed face. Sclera anicteric. MMM. OGT and ET tube in
   place
   Neck: thick, unable to appreciate JVP. not stiff
   Pulmonary: Clear mechanical BS b/l
   Cardiac: tachycardia, regular rhythm, [**2-8**] holosystolic murmur
   Abdomen: Mildly distended, no tympany, soft with +BS.  No rebound or
   guarding.
   Extremities: Anasarca, 1+ pitting edema all extremitites
   Skin: telangiectasias on chest
   Neurologic: Intubated, sedated. Opens eyes to commands, follows no
   other commands. PERRL. Toes mute. All ext flaccid.
   Labs / Radiology
   274 K/uL
   10.8 g/dL
   114 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.8 mEq/L
   20 mg/dL
   104 mEq/L
   145 mEq/L
   31.2 %
   18.5 K/uL
        [image002.jpg]
                             [**2119-8-20**]  11:53 PM
                             [**2119-8-21**]  05:10 AM
                             [**2119-8-21**]  05:21 AM
                             [**2119-8-21**]  03:01 PM
                             [**2119-8-21**]  09:05 PM
                             [**2119-8-22**]  03:42 AM
                             [**2119-8-22**]  10:39 AM
                             [**2119-8-22**]  04:53 PM
                             [**2119-8-22**]  09:18 PM
                             [**2119-8-23**]  03:06 AM
   WBC
   13.6
   17.7
   17.6
   18.5
   Hct
   31.7
   34.0
   32.1
   31.2
   Plt
   258
   286
   298
   274
   Cr
   0.8
   0.8
   0.8
   0.8
   0.8
   TCO2
   30
   30
   24
   33
   35
   Glucose
   195
   186
   130
   174
   114
   Other labs: PT / PTT / INR:12.9/22.4/1.1, CK / CKMB /
   Troponin-T:295/21/0.61, ALT / AST:41/49, Alk Phos / T Bili:60/0.4,
   Amylase / Lipase:76/54, Differential-Neuts:89.6 %, Band:0.0 %,
   Lymph:7.7 %, Mono:2.1 %, Eos:0.6 %, Fibrinogen:636 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:433 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.7 mg/dL BNP 1788
   PRELIMINARY MRI report:
   Multifocal areas of restricted diffusion corresponding to the areas of
   abnormality seen on CT consistent with acute infarction, which given
   distribution is most suggestive of an embolic source.
   No new culture data
   Assessment and Plan
   <I>ASSESSMENT:</I>54F with DM, known CAD admitted with VT arrest,
   hospital course complicated by difficult ventilation initially now with
   persistent ventilator dependence, hypertension and now evidence of
   embolic CVA on CT scan new from admission.
   .
   <I>PLAN:</I>
   .
   <I>## Respiratory failure:</I>Pt with persistent high PEEP
   requirements, due to this SBT have not been attempted. When sedation
   decreased pt becomes too agitated to tolerate vent weaning.  Unclear
   etiology for ventilator dependence, possible component of CHF in
   setting of recent MI with VF arrest, aspiration pneumonitis after
   aspirating during her code, COBD/reactive airways No evidence for PE.
   Minimal evidence for infections, has completed abx, cultures are
   negative, CXR fairly benign.
   -attempt to decrease Fi02 and PEEP overnight
   -Taper steroids as rapidly as tolerated, caution with steroids/risk for
   polyneuropathy esp in vented ICU patient at risk for neuropathy.
   -Continue MDIs
   -Check BNP, diurese prn
   -Currently on zosyn for ? aspiration PNA, day [**4-17**](?)
   .
   <I>## Stroke:</I>Pt had head CT in setting of persistently labile blood
   pressures.  Evidence for embolic strokes new from [**8-15**] with lesions in
   left occipital lobe and cerebellum with small lesions in frontal lobe.
   -? PFO vs clot in LV, consider repeat TTE vs TEE with contrast bubbles
   to evaluate for source of emboli, also could have occured during cath.
   -Continue ASA
   -f/u neuro recs
   -Maintain goal SBP 140-160 with nicardipine gtt and antihypertensive
   regimen as outlined below.
   -Check MRI, if unable to get tonight, will need 6am CT to r/o
   herniation as occipital infarct likely to swell and herniate.
   -Q2 hour neuro checks.
   .
   <I>## Hypertension:</I>No evidence of RAS.
   -continue nifedipine gtt
   -captopril
   -Nitro gtt prn goal BP 140-160s
   .
   <I>## CAD:</I>s/p VF arrest, presumed in setting of MI, s/p stent to
   OM1.
   -no BB due to concern for bronchospasm, can re-try after extubation
   -ASA, statin, plavix
   .
   <I>## CHF:</I>TTE showed some recovery of cardiac function
   -Continue ACEI, no BB as outlined above
   -spironolactone, monitor K
   -check CXR and BNP
   -pt appears total body overloaded, has been autodiuresing since
   transfer, closely monitor I/Os, electrolytes and weights.  [**Month (only) 60**] need
   add'l diuresis, CHF may be playing a role in pt's difficulty with vent
   weaning.
   .
   <I>## DM:</I>Holding metformin for now.
   -RISS
   .
   <I>## ID:</I>Leukocytosis, low grade fevers on transfer
   -on zosyn for presumed aspiration PNA
   -Repeat blood cx and UA since febrile to 100.8 tonight, has sterile
   pyuria recently possibly in setting of ongoing abx tx.
   -change foley
   ICU Care
   Nutrition:
   Comments: NPO until after TEE and extubation, then can advance. Restart
   TF if not extubated today.
   Glycemic Control: Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2119-8-21**] 07:00 PM
   Arterial Line - [**2119-8-21**] 07:00 PM
   22 Gauge - [**2119-8-21**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2119-08-23 11:14:00 Physician Attending Progress Note
Chief Complaint: vfib arrest, CVA, COPD exacrebation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2119-8-22**] 12:00 PM
   TEE - no overt thrombus though [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 4509**] not completely visualized -
   extensive atherosclerosis in aortic arch and descening aorta
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2119-8-23**] 07:45 AM
   Infusions:
   Nicardipine - 2.5 mcg/Kg/[**Year (4 digits) **]
   Propofol - 50 mcg/Kg/[**Year (4 digits) **]
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-8-23**] 07:45 AM
   Heparin Sodium (Prophylaxis) - [**2119-8-23**] 07:45 AM
   Lorazepam (Ativan) - [**2119-8-23**] 07:45 AM
   Midazolam (Versed) - [**2119-8-23**] 09:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: less agitated
   Flowsheet Data as of  [**2119-8-23**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.7
   HR: 100 (73 - 107) bpm
   BP: 157/63(90) {125/50(71) - 178/78(108)} mmHg
   RR: 23 (14 - 27) insp/[**Year (4 digits) **]
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 3 (-1 - 10)mmHg
   Total In:
                                                                  2,142 mL
                                                                    980 mL
   PO:
   TF:
                                                                     98 mL
                                                                     39 mL
   IVF:
                                                                  1,555 mL
                                                                    721 mL
   Blood products:
   Total out:
                                                                  5,595 mL
                                                                  1,835 mL
   Urine:
                                                                  5,595 mL
                                                                  1,835 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,453 mL
                                                                   -855 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 483 (300 - 483) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   [**Year (4 digits) 866**]: 83
   SpO2: 93%
   ABG: 7.47/47/96.[**Numeric Identifier 244**]/32/8
   Ve: 9.3 L/[**Numeric Identifier **]
   PaO2 / FiO2: 194
   Physical Examination
   Gen: lying in bed, sedated not agitated
   CV; RR
   Chest: good air movement i:e 1:1 or 1:1.5 no wheezes
   Abd: soft NT + BS
   Ext: 2+ edema
   Neurologic: Responds to voice and commands
   Labs / Radiology
   10.8 g/dL
   274 K/uL
   114 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.8 mEq/L
   20 mg/dL
   104 mEq/L
   145 mEq/L
   31.2 %
   18.5 K/uL
        [image002.jpg]
                             [**2119-8-20**]  11:53 PM
                             [**2119-8-21**]  05:10 AM
                             [**2119-8-21**]  05:21 AM
                             [**2119-8-21**]  03:01 PM
                             [**2119-8-21**]  09:05 PM
                             [**2119-8-22**]  03:42 AM
                             [**2119-8-22**]  10:39 AM
                             [**2119-8-22**]  04:53 PM
                             [**2119-8-22**]  09:18 PM
                             [**2119-8-23**]  03:06 AM
   WBC
   13.6
   17.7
   17.6
   18.5
   Hct
   31.7
   34.0
   32.1
   31.2
   Plt
   258
   286
   298
   274
   Cr
   0.8
   0.8
   0.8
   0.8
   0.8
   TCO2
   30
   30
   24
   33
   35
   Glucose
   195
   186
   130
   174
   114
   Other labs: PT / PTT / INR:12.9/22.4/1.1, CK / CKMB /
   Troponin-T:295/21/0.61, ALT / AST:41/49, Alk Phos / T Bili:60/0.4,
   Amylase / Lipase:76/54, Differential-Neuts:89.6 %, Band:0.0 %,
   Lymph:7.7 %, Mono:2.1 %, Eos:0.6 %, Fibrinogen:636 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:433 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Prelim MRI- acute infarct consistent with embolic source
   Assessment and Plan
   Complicated 57 yr old woman s/p Vfib arrest with cardiac cath shows 3VD
   stent to OM1, hypercarbic resp failure, COPD exacerbation, aspiration
   PNA, severe hypertension, and now new seemingly embolic CVA
   1.       Acute CVA: based on neg TEE atheroembolic peri cath most
   likely etiology. Stroke consult team involved, given waxing and [**Doctor Last Name 42**]
   recent severe HTN they are against anti coagulation. Goal SBP 140-160
   with Nicardipine drip. Follow up final MRI read
   2.       Resp Failure: on [**10-8**] good [**Last Name (LF) **], [**First Name3 (LF) **] secretions, stable CXR
   try SBT and check ABG
 if stable extubate understanding her CVA
   deficits may be limiting. Mainatin optimal HR and BP control.
   3.       CAD: ASA, statin, ACEI, holding bblcoker given severe
   bronchospasm
   4.       PNA:  Zosyn Day 8 of 10
 all cx neg to date
   ICU Care
   Nutrition: TF held for possible extubation
   Glycemic Control:  SSRI versus drip if needed
   Lines:
   Multi Lumen - [**2119-8-21**] 07:00 PM
   Arterial Line - [**2119-8-21**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, [**Year (4 digits) 866**]
   Comments:
   Communication:  with husband
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2119-08-24 11:28:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2119-8-23**] 09:30 AM
 INVASIVE VENTILATION - STOP [**2119-8-23**] 12:15 PM
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2119-8-24**] 08:00 AM
   Infusions:
   Nicardipine - 2.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-8-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2119-8-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-24**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.1
C (97
   HR: 93 (75 - 105) bpm
   BP: 149/66(90) {139/53(77) - 170/71(100)} mmHg
   RR: 16 (13 - 22) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 10 (2 - 12)mmHg
   Total In:
                                                                  1,568 mL
                                                                    655 mL
   PO:
                                                                     30 mL
                                                                     60 mL
   TF:
                                                                     39 mL
   IVF:
                                                                  1,279 mL
                                                                    595 mL
   Blood products:
   Total out:
                                                                  4,625 mL
                                                                  2,140 mL
   Urine:
                                                                  4,625 mL
                                                                  2,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,057 mL
                                                                 -1,485 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: 7.47/43/89.[**Numeric Identifier 128**]/28/6
   PaO2 / FiO2: 178
   Physical Examination:
   exam today:Gen: Reponsive, intubated    HEENT:  Intubated    Heart:RRR
   s1s2    Lungs: CTA few scattered wheeze and prolonged expiratory
   phase      Abd: +BS soft, NT, +BS     Ext: No c/c/+edema.  Neuro:
   Improved movement RUE, continued right visual neglect
   Labs / Radiology
   11.6 g/dL
   317 K/uL
   82 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.4 mEq/L
   15 mg/dL
   102 mEq/L
   142 mEq/L
   34.7 %
   22.5 K/uL
        [image002.jpg]
                             [**2119-8-21**]  03:01 PM
                             [**2119-8-21**]  09:05 PM
                             [**2119-8-22**]  03:42 AM
                             [**2119-8-22**]  10:39 AM
                             [**2119-8-22**]  04:53 PM
                             [**2119-8-22**]  09:18 PM
                             [**2119-8-23**]  03:06 AM
                             [**2119-8-23**]  11:52 AM
                             [**2119-8-23**]  01:06 PM
                             [**2119-8-24**]  05:00 AM
   WBC
   17.7
   17.6
   18.5
   22.5
   Hct
   34.0
   32.1
   31.2
   34.7
   Plt
   286
   298
   274
   317
   Cr
   0.8
   0.8
   0.8
   0.8
   0.6
   TCO2
   24
   33
   35
   31
   32
   Glucose
   186
   130
   174
   114
   82
   Other labs: PT / PTT / INR:12.9/22.4/1.1, CK / CKMB /
   Troponin-T:295/21/0.61, ALT / AST:41/49, Alk Phos / T Bili:60/0.4,
   Amylase / Lipase:76/54, Differential-Neuts:77.8 %, Band:0.0 %,
   Lymph:17.6 %, Mono:2.1 %, Eos:2.3 %, Fibrinogen:636 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:433 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   54F with DM, known CAD admitted with VT arrest, hospital course
   complicated by aspiration and subsequent difficulty with ventilation,
   hypertension and now evidence of embolic CVA on CT scan new from
   admission.
   1)Respiratory failure-successfully extubated yesterday. Wheezing today
   on exam. Prednisone taper and [**6-11**] day course abx restart nebs.
   2)HTN-Continue captopril 75mg tid, will start HCTZ and titrate off
   nicardipine drip.
   3)CAD:consider restarting beta blocker id resp status stabalizes, cont
   asa, plavix.
   4)ID: WBC, low grade fevers, chest x-ray, cultures
 d/c indwelling
   lines and culture tips
   5)Renal :diuresing off spironolactone.
   6)Neuro: Appreciate Stroke team input. continue ASA, plavix and pain
   control and PT consult.
   7)FEN:Speech and swallow evaluation
   8)ICU: SC hep, PPI, pneumoboots. Will d'c central line/a-line today
   ICU Care
   Nutrition: s/p good speech and swallow eval - advance
   Glycemic Control:
   Lines:
   Multi Lumen - [**2119-8-21**] 07:00 PM
   Arterial Line - [**2119-8-21**] 07:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   Communication:  with pt and husband
   [**Name (NI) 66**] status: Full code
   Disposition : to floor

2119-08-25 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2119-8-24**] 05:31 PM
 ARTERIAL LINE - STOP [**2119-8-24**] 06:58 PM
 MAGNETIC RESONANCE IMAGING - At [**2119-8-24**] 10:00 PM
   Had CP yesterday, no ecg changes.
   Got MRI thorax to r/o aortic dissection in diabetic pt with large BP
   difference between arms, CP and recent poorly controlled BP. Prelim
   read negative for dissection
   HCTZ started
   Got prn ativan and simethicone for abd pain with good relief.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2119-8-25**] 12:38 AM
   Infusions:
   Nicardipine - 1.3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-8-24**] 08:26 PM
   Heparin Sodium (Prophylaxis) - [**2119-8-25**] 12:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-25**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 74 (74 - 108) bpm
   BP: 148/53(76) {128/48(72) - 168/81(100)} mmHg
   RR: 16 (11 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (7 - 12)mmHg
   Total In:
                                                                  1,643 mL
                                                                    494 mL
   PO:
                                                                    540 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,103 mL
                                                                    254 mL
   Blood products:
   Total out:
                                                                  4,140 mL
                                                                  1,740 mL
   Urine:
                                                                  4,140 mL
                                                                  1,740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,497 mL
                                                                 -1,246 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ////
   Physical Examination
   General: Awake, alert, emotionally labile
   HEENT: NCAT, flushed face. Sclera anicteric. MMM.
   Neck: thick, unable to appreciate JVP. not stiff. IJ in place
   Pulmonary: Coarse wheeze throughout, improve with coughing.
   Cardiac: RRR,  [**2-8**] holosystolic murmur
   Abdomen: Mildly distended, no tympany, soft with +BS.  No rebound or
   guarding but mild diffuse tenderness to palpation.
   Extremities: Anasarca, 1+ pitting edema all extremitites
   Skin: telangiectasias on chest
   Neurologic: Awake, alert.  Slight dysarthria.  RUE weakness, grip
   strength 4/5, proximal strength 2/5.  b/l LE strength intact. Right
   visual field defect.
   Labs / Radiology
   390 K/uL
   12.4 g/dL
   82 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.4 mEq/L
   15 mg/dL
   102 mEq/L
   142 mEq/L
   36.8 %
   28.6 K/uL
        [image002.jpg]
                             [**2119-8-21**]  09:05 PM
                             [**2119-8-22**]  03:42 AM
                             [**2119-8-22**]  10:39 AM
                             [**2119-8-22**]  04:53 PM
                             [**2119-8-22**]  09:18 PM
                             [**2119-8-23**]  03:06 AM
                             [**2119-8-23**]  11:52 AM
                             [**2119-8-23**]  01:06 PM
                             [**2119-8-24**]  05:00 AM
                             [**2119-8-25**]  04:52 AM
   WBC
   17.7
   17.6
   18.5
   22.5
   28.6
   Hct
   34.0
   32.1
   31.2
   34.7
   36.8
   Plt
   286
   298
   274
   317
   390
   Cr
   0.8
   0.8
   0.8
   0.8
   0.6
   TCO2
   33
   35
   31
   32
   Glucose
   186
   130
   174
   114
   82
   Other labs: PT / PTT / INR: 147.0/22.4/1.0, CK / CKMB /
   Troponin-T:295/21/0.61, ALT / AST:41/49, Alk Phos / T Bili:60/0.4,
   Amylase / Lipase:76/54, Differential-Neuts:77.8 %, Band:0.0 %,
   Lymph:17.6 %, Mono:2.1 %, Eos:2.3 %, Fibrinogen:636 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:433 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   ASSESSMENT: 54F with DM, known CAD admitted with VT arrest, hospital
   course complicated by difficult ventilation initially now with
   persistent ventilator dependence, hypertension and now evidence of
   embolic CVA on CT scan new from admission.
   .
   PLAN:
   ## Respiratory failure: Successfully extubated [**2119-8-23**]. Doing well with
   minimal 02 requirement. Still with wheezing on exam, while has a
   history of COPD, suspect current wheeze is bronchospasm from recent
   aspiration.
   -Decrease steroids to 40mg daily
   -Switch albuterol to nebs
   -Currently on zosyn for  aspiration PNA, day [**6-11**]
   .
   ## Stroke: Pt had head CT in setting of persistently labile blood
   pressures.  Evidence for embolic strokes new from [**8-15**] with lesions in
   left occipital lobe and cerebellum with small lesions in frontal lobe.
   -TEE with no evidence LV thrombus, did see evidence of significant
   aortic atherosclerosis which is strong contender for embolic etiology
   -Continue [**Month/Year (2) 369**]
   -f/u neuro recs, expect continued improvement in right UE functioning,
   unlikely to recover visual field deficit.  No plan for anticoagulation,
   ok to continue [**Last Name (LF) 1495**], [**First Name3 (LF) **].
   -Maintain goal SBP 140-160
   .
   ## ID: Leukocytosis, low grade fevers on transfer, WBC persistently
   climbing, despite tapering down of steroids.
   -on zosyn for presumed aspiration PNA
   -Pan culture
   -Remove a-line and CVL; culture
   -Pt reports mild abd pain; will obtain CT abd to evaluate for possible
   mesenteric ischemia
   .
   ## Hypertension: No evidence of RAS.
   -have weaned nifedipine gtt with fairly stable BPs. Continue to
   monitor.
   -captopril 75 TID; continue PO hydralazine
   -will start labetelol
   .
   ## CAD: s/p VF arrest, presumed in setting of MI, s/p stent to OM1.
   -start low dose BB with close monitoring given bronchospasm
   -[**First Name3 (LF) 369**], statin, [**First Name3 (LF) 1495**]
   .
   ## CHF: TTE showed some recovery of cardiac function
   -Continue ACEI, start BB as above
   -Have d/c
d spironolactone
   -pt appears total body overloaded, has been autodiuresing since
   transfer, closely monitor I/Os, electrolytes and weights.
   .
   ## DM: Holding metformin for now.
   -RISS
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2119-8-21**] 07:00 PM
   Prophylaxis:
   DVT: boots, hep subq
   Stress ulcer:
   Code status: Full code
   Disposition:

2119-08-25 10:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2119-8-24**] 05:31 PM
 ARTERIAL LINE - STOP [**2119-8-24**] 06:58 PM
 MAGNETIC RESONANCE IMAGING - At [**2119-8-24**] 10:00 PM
   MRI for dissection negative.  Started HCTZ. Large BM this am. Now
   reporting abdominal pain improved with BM but still present.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2119-8-25**] 08:00 AM
   Infusions:
   Nicardipine - 1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-8-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2119-8-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-25**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.5
   HR: 99 (72 - 108) bpm
   BP: 98/44(58) {98/44(58) - 168/81(100)} mmHg
   RR: 22 (11 - 23) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 11 (8 - 12)mmHg
   Total In:
                                                                  1,643 mL
                                                                    819 mL
   PO:
                                                                    540 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,103 mL
                                                                    459 mL
   Blood products:
   Total out:
                                                                  4,140 mL
                                                                  2,200 mL
   Urine:
                                                                  4,140 mL
                                                                  2,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,497 mL
                                                                 -1,381 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///30/
   Physical Examination
   Gen: A+O x 3  HEENT:  right visual neglect    Heart:RRR s1s2
   Lungs: CTA few scattered wheeze and prolonged expiratory phase
   Abd: +BS soft, diffuse mild tenderness     Ext: No c/c/+edema.  Neuro:
   Improved movement RUE, continued right visual neglect
   Labs / Radiology
   12.4 g/dL
   390 K/uL
   134 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.8 mEq/L
   17 mg/dL
   96 mEq/L
   137 mEq/L
   36.8 %
   28.6 K/uL
        [image002.jpg]
                             [**2119-8-21**]  09:05 PM
                             [**2119-8-22**]  03:42 AM
                             [**2119-8-22**]  10:39 AM
                             [**2119-8-22**]  04:53 PM
                             [**2119-8-22**]  09:18 PM
                             [**2119-8-23**]  03:06 AM
                             [**2119-8-23**]  11:52 AM
                             [**2119-8-23**]  01:06 PM
                             [**2119-8-24**]  05:00 AM
                             [**2119-8-25**]  04:52 AM
   WBC
   17.7
   17.6
   18.5
   22.5
   28.6
   Hct
   34.0
   32.1
   31.2
   34.7
   36.8
   Plt
   286
   298
   274
   317
   390
   Cr
   0.8
   0.8
   0.8
   0.8
   0.6
   0.7
   TCO2
   33
   35
   31
   32
   Glucose
   186
   130
   174
   114
   82
   134
   Other labs: PT / PTT / INR: 147.0/22.4/1.0, CK / CKMB /
   Troponin-T:295/21/0.61, ALT / AST:41/49, Alk Phos / T Bili:60/0.4,
   Amylase / Lipase:76/54, Differential-Neuts:77.8 %, Band:0.0 %,
   Lymph:17.6 %, Mono:2.1 %, Eos:2.3 %, Fibrinogen:636 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:433 IU/L, Ca++:9.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan 54F with DM, known CAD admitted with VT arrest,
   hospital course complicated by aspiration and subsequent difficulty
   with ventilation, hypertension and now evidence of embolic CVA on CT
   scan new from admission.  Presently with rising WBC and new abdominal
   pain on steroids.
   1)ID: WBC, low grade fevers, chest x-ray, cultures.  With abdominal
   pain overnight concerning for abdominal process given steroids, embolic
   disease.  CT abd/pelvis with contrast.  Will pull Central line and
   culture tip.  Send stool for C.Diff and stool for occult blood. Day [**7-11**]
   Zosyn for aspiration PNA will reasssess course pending CT scan.
   2)CAD: consider restarting low  dose beta blocker and follow for signs
   of reactive airway disease, cont asa, plavix. Chest pain one set of
   enzymes, and f/[**Location 1698**] read of MRI.
   3)Respiratory:  Improved, continue nebs and steroid taper.
   4)Renal: diuresing off spironolactone.
   5)Neuro: Stroke continue ASA, plavix and pain control and PT consult.
   6)FEN:diet advanced
   7)ICU: SC hep, PPI, pneumoboots.  d'c central line has new PICC right
   arm.
   8)Dispo: Floor pending CT abdomen
   ICU Care
   Nutrition: advance diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2119-8-21**] 07:00 PM
   PICC Line - [**2119-8-25**] 10:07 AM
   Prophylaxis:
   DVT: SC hep
   Stress ulcer: PPI
   Communication:  with pt and husband
   [**Name (NI) 66**] status: Full code
   Disposition :ICU